US08748624B2
STEP A: ethyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate
Ethyl 3-(5-(2-(bromomethyl)-4,5-difluorophenyl)picolinamido)propanoate (115 mg, 0.27 mmol), 4′-chloro-[1,1′-biphenyl]-4-amine (110 mg, 0.54 mmol), and K2CO3 (74 mg, 0.54 mmol) were diluted with DMF (0.3 mL) and the resulting mixture was stirred at room temperature. After 2 h the resulting mixture directly purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-(2-(bromomethyl)-4,5-difluorophenyl)picolinamido)propanoate | 0.27 mmol, 115 mg | BrCC1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C18H17BrF2N2O3
reactant | 4′-chloro-[1,1′-biphenyl]-4-amine | 0.54 mmol, 110 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
reactant | K2CO3 | 0.54 mmol, 74 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | ethyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C30H26ClF2N3O3
